US05382592
5-Amino-3-[2-(dimethylamino)ethyl]indole (2)
A mixture of 5-nitro-3-[2-(dimethylamino) ethyl]indole (0.650 g, 2.79 mmol) and 10% palladium-on-charcoal (0.150 g) in 60 mL of ethanol was hydrogenated on a Parr shaker at 40 psi for 30 min. The mixture was then filtered through Celite and the catalyst was washed with additional ethanol. Evaporation of the filtrate gave the essentially pure title compound (0.510 g, 90%) as a light brown gum: IR (neat) 3410, 1630, 1588, 1464 cm-1 ; 1H NMR (CDCl3, 200 MHz) δ7.84 (br s, 1H), 7.15 (d, J=8.5 Hz, 1H), 6.94 (d, J=2.2 Hz, 1H), 6.90 (d, J=2.1 Hz, 1H), 6.66 (dd, J=8.5, 2.2 Hz, 1H), 3.44 (br s, 2H), 2.88 (m, 2H), 2.60 (m, 2H), 2.34 (s, 6H).

reactant | 5-nitro-3-[2-(dimethylamino) ethyl]indole | 2.79 mmol, 0.650 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCN(C)C | C12H15N3O2
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.150 g | [Pd] | Pd
product | 5-Amino-3-[2-(dimethylamino)ethyl]indole | 0.510 g, 90% | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
